US03983243
To an ice cold solution containing 9.85 g. of 9,10-epoxy-6,9,10-trimethyl-undec-5-en-2-one and 7.3 g. of diethyl phosphono acetonitrile in 50 ml. of ethyl alcohol, there was added dropwise a solution containing 1.1 g. of sodium in 25 ml. of ethyl alcohol. After the addition, the reaction mixture was allowed to stand 2 hours at room temperature. After this period, the reaction mixture was dried under vacuum and poured onto ice water. After this, the reaction mixture was exhaustively extracted with diethyl ether. The combined ether extracts were washed with an aqueous saturated sodium chloride solution, dried under sodium sulfate and evaporated. By chromatography on Kieselgel with hexane-ethyl acetate (1:1 parts by volume) was obtained pure 10,11-epoxy-3,7,10,11-tetramethyl-2,6-dodecadiene nitrile, b.p. 108°-111°C./0.005 mmHg; nD20 = 1.4861.

reactant | 9,10-epoxy-6,9,10-trimethyl-undec-5-en-2-one | O1C(CCC(=CCCC(C)=O)C)(C1(C)C)C | C14H24O2
reactant | diethyl phosphono acetonitrile | C(C)C(C#N)(P(=O)(O)O)CC | C6H12NO3P
reactant | sodium | [Na] | Na
reactant | ethyl alcohol | C(C)O | C2H6O
product | 10,11-epoxy-3,7,10,11-tetramethyl-2,6-dodecadiene nitrile | O1C(CCC(=CCCC(=CC#N)C)C)(C1(C)C)C | C16H25NO
